US05256667
Preparation of methyl 5-chloro-2-nitrobenzoate
To a solution of 10 g (49.6 mmol) of 5-chloro-2-nitrobenzoic acid and 9 mL (64.5 mmol) Et3N in 300 ml CH2Cl2 at 0° C. was added 4.6 mL (59.5 mmol) methyl chloroformate. The cold bath was removed and after 10 minutes, 0.200 mL methanol was added. Bubbles Of CO2 could be seen rising from the solution. After 2 hours, the mixture was diluted with Et2O, was washed with 5% HC1, was washed with saturated NaHCO3 solution, was washed with brine, was dried over MgSO4 and decolorized with charcoal, then was stripped of solvent in vacuo to give the product. Rf 0.35 in 15% EtOAc/hexane, visualized by UV; 1H--NMR (400 MHz, CDCl3): δ7.92 (d, J=8.6 Hz, 1H), 7.69 (d, J=2.3 Hz, 1H), 7.59 (dd, J1 =2.2 Hz, J2 =8.8 Hz, 1H), 3.94 (s, 3H).

reactant | 5-chloro-2-nitrobenzoic acid | 49.6 mmol, 10 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Et3N | 64.5 mmol, 9 mL | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 59.5 mmol, 4.6 mL | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | methyl 5-chloro-2-nitrobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6ClNO4
